US07566723B2
Ethyl 4-(4-cyano-2-methylphenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
4-Cyano-2-methylbenzaldehyde (200 mg, 1.38 mmol), 3-trifluoromethylphenyl thiourea (276 mg, 1.25 mmol), ethyl 3-oxobutanoate (179 mg, 1.38 mmol) and trimethylsilyl polyphosphate (225 mg) in 5 ml THF are stirred overnight at reflux temperature. The reaction mixture is cooled to room temperature, and after addition of 20 ml 0.5 M hydrochloric acid the aqueous phase is extracted with ethyl acetate (2×20 ml). The combined organic layers are washed with saturated aqueous sodium carbonate solution and dried with sodium sulfate. The solvent is removed in vacuo and the crude product is purified via preparative HPLC (RP18-column; eluent: aceto-nitrile-water, gradient 10:90 to 90:10).

reactant | 4-Cyano-2-methylbenzaldehyde | 1.38 mmol, 200 mg | C(#N)C1=CC(=C(C=O)C=C1)C | C9H7NO
reactant | 3-trifluoromethylphenyl thiourea | 1.25 mmol, 276 mg | FC(C=1C=C(C=CC1)NC(=S)N)(F)F | C8H7F3N2S
reactant | ethyl 3-oxobutanoate | 1.38 mmol, 179 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | trimethylsilyl polyphosphate | 225 mg | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | hydrochloric acid | 0.5 M, 20 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(4-cyano-2-methylphenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | C(#N)C1=CC(=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC(=CC=C1)C(F)(F)F)=S)C | C23H20F3N3O2S
